US05965559
Using an analogous procedure to that described in Example 89, 4-[4-(4-pyridyl)piperazin-1-ylcarbonyl]aniline was reacted with 4'-bromo-4-biphenylylsulphonyl chloride to give N-{4-[4-(4-pyridyl)piperazin-1-ylcarbonyl]phenyl}-4'-bromo-4-biphenylylsulphonamide hydrochloride salt in 90% yield, m.p. 201-205° C.;

reactant | 4-[4-(4-pyridyl)piperazin-1-ylcarbonyl]aniline | N1=CC=C(C=C1)N1CCN(CC1)C(=O)C1=CC=C(N)C=C1 | C16H18N4O
reactant | 4'-bromo-4-biphenylylsulphonyl chloride | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8BrClO2S
product | N-{4-[4-(4-pyridyl)piperazin-1-ylcarbonyl]phenyl}-4'-bromo-4-biphenylylsulphonamide hydrochloride salt | 90% yield | Cl.N1=CC=C(C=C1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Br | InChI=1S/C28H25BrN4O3S.ClH/c29-24-7-1-21(2-8-24)22-5-11-27(12-6-22)37(35,36)31-25-9-3-23(4-10-25)28(34)33-19-17-32(18-20-33)26-13-15-30-16-14-26;/h1-16,31H,17-20H2;1H
